US07700641B2
C. Synthesis of 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 31D, and making non-critical variations to replace 1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one, and ethyl bromoacetate with para-formaldehyde, the title compound was obtained that was used directly for further reaction.

reactant | 1-hexyl-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C(CCCCC)N1C(C(C2=CC=CC=C12)C1=CC2=C(OCO2)C=C1O)=O | C21H23NO4
reactant | 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(NC2=CC=C1)=O)C=1C(=CC2=C(CCO2)C1)O | C16H12BrNO3
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | para-formaldehyde | C=O | CH2O
product | 4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(NC2=CC=C1)=O)(CO)C=1C(=CC2=C(CCO2)C1)O | C17H14BrNO4
